US05389614
9f. (5-(4-Aminomethylbenzyl)-l-methyl-2,4-dioxoimidazolidin-3-yl)-acetyl-L-aspartyl-L-valine
150 mg of (5-(4-cyanobenzylidene)-1-methyl-2,4-dioxoimidazolidin-3-yl)-acetyl-L-aspartyl-L-valine are dissolved in 40 ml of methanol. After addition of 50 mg of 10% strength Pd-on-charcoal, hydrogenation is carried out at room temperature for 12 hours, the catalyst is filtered off, the filtrate is concentrated and the product is freeze-dried.

reactant | (5-(4-cyanobenzylidene)-1-methyl-2,4-dioxoimidazolidin-3-yl)-acetyl-L-aspartyl-L-valine | 150 mg | C(#N)C1=CC=C(C=C2C(N(C(N2C)=O)N([C@@H](CC(O)=O)C(=O)N[C@@H](C(C)C)C(=O)O)C(C)=O)=O)C=C1 | C23H25N5O8
solvent | methanol | 40 ml | CO | CH4O
product | (5-(4-Aminomethylbenzyl)-l-methyl-2,4-dioxoimidazolidin-3-yl)-acetyl-L-aspartyl-L-valine | NCC1=CC=C(CC2C(N(C(N2C)=O)N([C@@H](CC(O)=O)C(=O)N[C@@H](C(C)C)C(=O)O)C(C)=O)=O)C=C1 | C23H31N5O8
